US08030337B2
N-{2-[2-(Hydroxymethyl)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}acetamide
To a solution of N-(2-{2-[(benzyloxy)methyl]-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl}ethyl)acetamide (50.0 mg, 0.131 mmol) in methanol (1 mL) was added a 10% palladium-carbon powder (100 mg), and the mixture was stirred at 50° C. for 24 hr under a hydrogen atmosphere. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→5/95) and recrystallized (ethyl acetate/hexane) to give the title compound (19.0 mg, yield 53%).

reactant | N-(2-{2-[(benzyloxy)methyl]-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl}ethyl)acetamide | 0.131 mmol, 50.0 mg | C(C1=CC=CC=C1)OCC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O | C22H24N2O3
solvent | methanol | 1 mL | CO | CH4O
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | N-{2-[2-(Hydroxymethyl)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}acetamide | 19.0 mg, yield 53% | OCC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O | C15H18N2O3
